US04318913
3-(1-Piperidinylmethyl)benzoic acid, methyl ester
A mixture of piperidine (25 ml) and 3-(bromomethyl)benzoic acid, methyl ester (20 g) in toluene (600 ml) was stirred at room temperature for 4 h. The white precipitate was removed by filtration and the filtrate was distilled to give the title compound as a colourless oil (17.56 g) b.p. 110° (10-1 mm). TLC silica; ether; Rf 0.7.

reactant | piperidine | 25 ml | N1CCCCC1 | C5H11N
reactant | 3-(bromomethyl)benzoic acid, methyl ester | 20 g | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(1-Piperidinylmethyl)benzoic acid, methyl ester | 17.56 g | N1(CCCCC1)CC=1C=C(C(=O)OC)C=CC1 | C14H19NO2
